US04783537
To 5.0 g of ethyl 2-pyridylacetate dissolved in 25 ml of MeOH was added 20 ml of dimethyl amine. The mixture was heated at 90° in a steel autoclave for 96 hrs. The solvent/amine mixture was allowed to evaporate until a residual oil was obtained. The residual oil was distilled to afford 4.5 g of the desired N,N-dimethyl-(2-pyridyl)acetamide as a free-flowing yellow oil, bp 105°-110°/0.5 mm.

reactant | ethyl 2-pyridylacetate | 5.0 g | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | dimethyl amine | 20 ml | CNC | C2H7N
solvent | MeOH | 25 ml | CO | CH4O
product | N,N-dimethyl-(2-pyridyl)acetamide | 4.5 g | CN(C(CC1=NC=CC=C1)=O)C | C9H12N2O
